US04386081
(m) Dimethyl i-propoxycarbonylphosphonate
From 10.0 ml (85 mmole) of trimethylphosphite and 7.8 g (64 mmole) of i-propyl chloroformate. (100° C., 2 hours). Yield 8.0 g (64%). Bp2 90°-2° C. nD25 1,4202.

reactant | trimethylphosphite | 85 mmole, 10.0 ml | COP(OC)OC | C3H9O3P
reactant | i-propyl chloroformate | 64 mmole, 7.8 g | ClC(=O)OC(C)C | C4H7ClO2
product | Dimethyl i-propoxycarbonylphosphonate | C(C)(C)OC(=O)P(OC)(OC)=O | C6H13O5P
